### PR TITLE
chore: correct instances for normed rings on subrings

### PR DESCRIPTION
**Pull request by j-loreaux**
We were missing several instances of `NonUnital{Semi}Normed{Comm}Ring` on `NonUnitalSubring`s, where we had them only for `NonUnitalSubalgebra`. This PR corrects this oversight, and does a bit more organization (e.g., placing the `Class` versions down by their unital counterparts, and marking the latter with lower priority; adding `fast_instance%` to all touched declarations).

`fast_instance%` is missing for many other declarations in this file, but they can be added in a follow-up PR.

---

### CODE REVIEW

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 1]
```diff
@@ -772,16 +773,6 @@ protected theorem List.norm_prod (l : List α) : ‖l.prod‖ = (l.map norm).pro
...
 
-@[simp]
-theorem List.norm_prod_map (l : List β) (f : β → α) :
-    ‖(l.map f).prod‖ = (l.map (‖f ·‖)).prod := by
-  aesop (add simp List.norm_prod)
-
-@[simp]
-theorem List.nnnorm_prod_map (l : List β) (f : β → α) :
-    ‖(l.map f).prod‖₊ = (l.map (‖f ·‖₊)).prod := by
-  aesop (add simp List.nnnorm_prod)
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:783]: did you mean to delete these?

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 2]
```diff
@@ -796,22 +787,6 @@ theorem norm_prod (s : Finset β) (f : β → α) : ‖∏ b ∈ s, f b‖ = ∏
...
-
-@[simp]
-theorem Multiset.norm_prod_map (s : Multiset β) (f : β → α) :
-    ‖(s.map f).prod‖ = (s.map (‖f ·‖)).prod := by
-  simp [Multiset.norm_prod]
-
-@[simp]
-theorem Multiset.nnnorm_prod_map (s : Multiset β) (f : β → α) :
-    ‖(s.map f).prod‖₊ = (s.map (‖f ·‖₊)).prod := by
-  simp [Multiset.nnnorm_prod]
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:813]: and these

File: Mathlib/Analysis/Normed/Ring/Basic.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Ring/Basic.lean:783]: ah, thanks. I just did `git checkout my-other-branch -- this-file.lean`, because I thought I was on a recent enough commit. I should have been more careful.

**Comment by themathqueen** [comment]
!radar

**Comment by leanprover-radar** [comment]
Benchmarking 402d59b7d6526d78d0bf0b27f0bfe05411af58a4 against ff7fef4c209dbe0b43bb25bdfac2a9ef7c3de6fe ([preliminary results](https://radar.lean-lang.org/repos/mathlib4/commits/402d59b7d6526d78d0bf0b27f0bfe05411af58a4?reference=ff7fef4c209dbe0b43bb25bdfac2a9ef7c3de6fe)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>
